US06190650B1
Solid sodium 3, 6, 8-trisulfonaphthylisothiocyanate (250 mg; 0.5 mmol) was added to a solution of PAMAM 4.0 (51 mg; 0.01 mmol) and N,N-dimethyl-N-allylamine buffer (pH 9.5; 1 ml) in water (2 ml) and the mixture heated under nitrogen at 53° for two hours and then cooled. The mixture was concentrated under reduced pressure to give an orange solid. The residual solid was dissolved in water (2 ml) and passed through a short column of Amberlite IR-120(Na). The filtrate was then concentrated and the residue purified by gel filtration (Sephadex LH20; water). The pure fractions were combined and freeze dried to give the sodium 3, 6, 8-trisulfonaphthylthiourea terminated PAMAM 4.0 dendrimer as an off-white solid (102 mg). 1H nmr (D2O): δ 2.65; 3.02; 3.30; 3.66; 8.05; 8.42; 8.59; 8.67. 13 C nmr (D2O): δ 33.2; 38.7; 43.2; 43.7; 47.8; 54.0; 54.3; 56.7; 131.0; 131.3; 131.9; 135.9; 138.0; 139.6; 143.8; 144.1; 145.6; 176.2; 176.5; 186.0.

reactant | sodium 3, 6, 8-trisulfonaphthylisothiocyanate | 0.5 mmol, 250 mg | S(=O)(=O)(O)C=1C=C(C2=C(C=C(C=C2C1)S(=O)(=O)O)S(=O)(=O)O)N=C=S.[Na]
reactant | N,N-dimethyl-N-allylamine | 1 ml, pH 9.5 | CN(CC=C)C | C5H11N
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | sodium 3, 6, 8-trisulfonaphthylthiourea | S(=O)(=O)(O)C=1C=C(C2=C(C=C(C=C2C1)S(=O)(=O)O)S(=O)(=O)O)NC(=S)N.[Na] | InChI=1S/C11H10N2O9S4.Na/c12-11(23)13-8-3-6(24(14,15)16)1-5-2-7(25(17,18)19)4-9(10(5)8)26(20,21)22;/h1-4H,(H3,12,13,23)(H,14,15,16)(H,17,18,19)(H,20,21,22);
